US06610723B2
1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazole-2-carbaldehyde
4-Chloromethyl-1-(3,4-dichloro-phenyl)-1H-imidazole (1.31 g, 5.0 mmol) was dissolved in DMF (10 ml), 2-imidazolecarboxaldehyde (0.48 g, 5.0 mmol) and cesium carbonate (0.82 g, 2.5 mmol) was added and the resulting mixture was stirred at 60° C. for 12 h. After evaporation of the solvent the residue was dissolved in AcOEt and washed with H2O. The organic phase was dried (Na2SO4), concentrated and chromatographed [silica, elution with gradient CH2Cl2 to 100% (CH2Cl2/MeOH=9:1)] to obtain 0.98 g (61%) of the title compound as an off-white solid. Mp. 130-131° C. (CH2Cl2/iPr2O), MS: m/e=320 (M+).

reactant | 4-Chloromethyl-1-(3,4-dichloro-phenyl)-1H-imidazole | 5.0 mmol, 1.31 g | ClCC=1N=CN(C1)C1=CC(=C(C=C1)Cl)Cl | C10H7Cl3N2
reactant | 2-imidazolecarboxaldehyde | 5.0 mmol, 0.48 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | cesium carbonate | 2.5 mmol, 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazole-2-carbaldehyde | 0.98 g, 61% | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)C=O | C14H10Cl2N4O
